US06420375B1
Preparation of 3-(2-naphthyl)-2-propyn-1-ol
A mixture of 2-bromonaphthalene (19.83 g), CuI (1.59 g), 2-propyn-1-ol (10 ml) and dichlorobis(triphenylphosphine)palladium (II) (2.00 g) in triethylamine (300 ml) was stirred under argon atmosphere at 50° C. for 72 hours. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was extracted with ethyl acetate and the extract was washed with water and brine, dried over Na2SO4and concentrated in vacuo. The residue was chromatographed on silica gel (hexane:ethyl acetate=5:2) followed by recrystallization from hexane-ethyl acetate to give the titled compound (14.92 g) as a colorless powder.

reactant | 2-bromonaphthalene | 19.83 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | 2-propyn-1-ol | 10 ml | C(C#C)O | C3H4O
solvent | triethylamine | 300 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 1.59 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 2.00 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-naphthyl)-2-propyn-1-ol | 14.92 g | C1=C(C=CC2=CC=CC=C12)C#CCO | C13H10O
